US08455483B2
b) (9-(2-Chloro-3-(2-hydroxyethyl)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone
Prepared by the method of Example 26, step c using (2-isopropylthiazol-4-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone hydrochloride [Example 27, step a] (1.37 g) in place of (2-ethylthiazol-4-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone trifluoroacetate, and 2-methyltetrahydrofuran (50 mL) in place of tetrahydrofuran. Yield 1.00 g.

reactant | (2-isopropylthiazol-4-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone hydrochloride | Cl.C(C)(C)C=1SC=C(N1)C(=O)N1CCOC2(C1)CCNCC2
reactant | (2-ethylthiazol-4-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone trifluoroacetate | FC(C(=O)O)(F)F.C(C)C=1SC=C(N1)C(=O)N1CCOC2(C1)CCNCC2
reactant | 2-methyltetrahydrofuran | 50 mL | CC1OCCC1 | C5H10O
product | (9-(2-Chloro-3-(2-hydroxyethyl)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone | ClC1=C(CN2CCC3(CN(CCO3)C(=O)C=3N=C(SC3)C(C)C)CC2)C=CC=C1CCO | C24H32ClN3O3S
